US04398944
Synthesis of N-(4-methoxyphenylmethyl)-2-chloroacetamide (Compound No. 3 in Table 1)
Into an ice-cooled mixture of 80 ml of acetic acid and 20 ml of 95% sulfuric acid, 16 g of anisol and 12.4 g of N-hydroxymethyl-2-chloroacetamide (refer to Beilsteins, Handbuch der Organischen Chemie, Vol. 2, 200) were added under agitation, and after stirring the reaction mixture for 30 min, it was left stand still for 2 days. Then, the reaction mixture was poured into iced water and the thus deposited white crystals were collected by filtration. The crystals were recrystallized from an aqueous ethyl alcoholic solution to obtain 8.7 g of the object product in a yield of 41%. The product melted at 101°-102° C., and showed infrared absorption peaks at 3320 cm-1 (due to NH), 1640 cm-1 (due to C=O) and 1260 cm-1 (due to --O--), respectively.

reactant | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | anisol | 16 g | C1(=CC=CC=C1)OC | C7H8O
reactant | N-hydroxymethyl-2-chloroacetamide | 12.4 g | OCNC(CCl)=O | C3H6ClNO2
solvent | water | O | H2O
product | N-(4-methoxyphenylmethyl)-2-chloroacetamide | 8.7 g, yield of 41% | COC1=CC=C(C=C1)CNC(CCl)=O | C10H12ClNO2
